US07964732B2
Step A11A: ethyl 1-methyl-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate
Ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate (10 g, 0.042 mole) was dissolved in ethanol (120 ml) and cooled to 0° C. Methyl hydrazine (2.11 g, 0.046 mole) (pre-stirred in concentrated HCl (4 ml)-EtOH (4 ml), 0° C., 30 min) in EtOH (20 ml) was added at 0° C., and the resulting solution was stirred at room temperature for 18 h. The yellow solution was evaporated and the residue suspended in water and basified with sodium carbonate solution (saturated) and extracted with ethyl acetate (3×30 ml). The organic layer was separated and back-washed with brine (2×30 ml). The organic layer was separated, dried (Na2SO4), filtered and evaporated to give an oil. Yield 7 g. 1H NMR (300 MHz, CDCl3) shows 6:1 for desired regioisomer. The oil was dissolved in dichloromethane and purified using an ISCO Companion (70 g silica col., heptane to ethyl acetate:heptane 1:1). The appropriate fractions were combined and evaporated to give a colourless oil, 5.71 g, Yield 62%. 1H NMR (400 MHz, CDCl3) δ 7.91 (s, 1H) 4.36, 4.34, 4.32, 4.30 (q, 2H) 4.08 (s, 3H) 1.38, 1.36, 1.34 (t, 3H). MS (ESI): m/z 223 (M+H)+. LC-MS ELSD 100% m/z 223 (M+H)+. TLC Ethyl acetate:heptane 1:1 0.7 UV+ve

reactant | Ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate | 0.042 mole, 10 g | C(C)OC=C(C(=O)OCC)C(C(F)(F)F)=O | C9H11F3O4
reactant | Methyl hydrazine | 0.046 mole, 4 ml, 2.11 g | CNN | CH6N2
reactant | Ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 1-methyl-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | Yield 62% | CN1N=CC(=C1C(F)(F)F)C(=O)OCC | C8H9F3N2O2
